US08084476B2
Step 1. 5-Chloro-2-[(3-chlorophenoxy)methyl]nicotinic acid
The title compound was prepared according to the procedure described in step 2 of Example 18 from 3-chlorofuro[3,4-b]pyridin-5(7H)-one (Organic letters, 2001, 3, 209.) and 3-chloro phenol:

reactant | 3-chlorofuro[3,4-b]pyridin-5(7H)-one | ClC=1C=C2C(=NC1)COC2=O | C7H4ClNO2
reactant | 3-chloro phenol | ClC=1C=C(C=CC1)O | C6H5ClO
product | 5-Chloro-2-[(3-chlorophenoxy)methyl]nicotinic acid | ClC=1C=NC(=C(C(=O)O)C1)COC1=CC(=CC=C1)Cl | C13H9Cl2NO3
